* C:\users\kou\Documents\Electronics\Electronics_2\Exercise_4\Schema_4-7.asc
* Generated by LTspice 24.1.7 for Windows.
R2 R_common 0 1k
R1 out R_common 10k
V§Ei in 0 SINE(0 1.5 100) AC 1.5
V+ N001 0 15
V1 0 N002 15
X§U1 R_common in N001 N002 out LM741
* Vo
.tran 0.06
.lib C:\users\kou\Documents\Electronics\Electronics_2\LM741\lm741.lib
.backanno
.end
