* C:\users\kou\Documents\Electronics\Electronics_2\Exercise_4\Schema_4-8.asc
* Generated by LTspice 24.1.7 for Windows.
R1 N003 0 1k
R2 out N003 10k
R3 out N001 4.7k
C1 N001 0 47n
V+ N002 0 15
V- 0 N004 15
X§U1 N003 N001 N002 N004 out LM741
* Vo
.tran 0.001
.lib C:\users\kou\Documents\Electronics\Electronics_2\LM741\lm741.lib
.backanno
.end
